data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_467355_0,[C:1]1([C:4]([H:15])([H:16])[H:17])([H:11])[C:3]([H:13])([H:14])[C:2]([C:5]([H:18])([H:19])[H:20])([H:12])[O:8][N:6]([H:10])[C:7]1=[O:9]>>[C:1](/[C:3](=[C:2](/[C:5]([H:18])([H:19])[H:20])[H:12])[H:13])([C:4]([H:15])([H:16])[H:17])([C:7]([N:6]([O:8][H:14])[H:10])=[O:9])[H:11],65.76827499995574
MR_357331_2,[C:1](\[N:2]([H:7])[H:8])(=[C:4](\[N:3]([H:9])[H:10])[H:11])[O:5][H:6]>>[C:1]1([N:2]([H:7])[H:8])([O:5][H:6])[N:3]([H:9])[C:4]1([H:10])[H:11],69.90475499999889
MR_250065_2,[C:1]([C:2]([N:6]=[O:7])([H:12])[H:13])([C:4]([C:3]([H:14])([H:15])[H:16])=[O:8])([N:5]([H:10])[H:11])[H:9]>>[C:1]([C:2]([C:4]([C:3]([H:14])([H:15])[H:16])=[O:8])([H:12])[H:13])([N:5]([H:10])[H:11])([N:6]=[O:7])[H:9],65.02092250002349
MR_231973_0,[C:1]([N:2]([C:3](=[O:6])[H:11])[H:7])(/[N:4]=[N:5]\[H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[N:2]([H:7])[N:4]1[N:5]([C:3](=[O:6])[H:11])[H:8],67.98272250000053
MR_33525_1,[C:1](/[N:6]=[C:4](/[C:2]([H:14])([H:15])[H:16])[N:3](/[C:5](=[N:7]/[H:9])[H:10])[H:8])([H:11])([H:12])[H:13]>>[C:1](/[N:6]=[C:4](/[C:2]([H:14])([H:15])[H:16])[N:7](/[C:5](=[N:3]/[H:8])[H:10])[H:9])([H:11])([H:12])[H:13],45.08838499998333
MR_40064_0,[C:1]1([C:3]([C:5]([C:4]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])([H:11])[H:12])([H:8])[C:2]([H:9])([H:10])[O:7]1>>[C:1]1([C:3]([C:5]([C:4]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])([H:11])[H:12])([H:8])[C:2]([H:9])([H:10])[O:7]1,65.00774499998542
MR_187227_0,[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:4](=[C:5](\[N:3]([H:9])[H:10])[H:12])[H:11])([O:6][H:7])[H:8]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:4](/[C:5]([N:3]([H:9])[H:10])([H:8])[H:12])[H:11])[O:6][H:7],71.50676249998483
MR_352465_0,[C@:1]([C@:2]([C:3]([H:16])([H:17])[H:18])([N:6]([H:14])[H:15])[H:9])([N:5]([H:12])[H:13])([O:7][N:4]([H:10])[H:11])[H:8]>>[C:1]([C@@:2]([C:3]([H:16])([H:17])[H:18])([O:7][N:4]([H:10])[H:11])[H:9])([N:5]([H:12])[H:13])([N:6]([H:14])[H:15])[H:8],72.65006750002314
MR_182789_1,[C:1]([C:4](/[C:3]([C:2]([H:12])([H:13])[H:14])=[N:6]\[H:10])([O:7][H:8])[H:11])(=[O:5])[H:9]>>[C:1](=[C:4](\[O:7]/[C:3]([C:2]([H:12])([H:13])[H:14])=[N:6]\[H:10])[H:11])(\[O:5][H:8])[H:9],63.07630000001083
MR_142654_0,[C:1](/[C:2]([O:4][C:3](=[O:6])[H:8])=[N:5]\[H:7])([H:9])([H:10])[H:11]>>[C:1](/[C:2](=[N:5]\[H:7])[O:6][C:3](=[O:4])[H:8])([H:9])([H:10])[H:11],33.64341249998702
MR_66339_1,[C:1]([C:3]([H:14])([H:15])[H:16])([N:4]([H:8])[H:9])([C:5](=[C:6]([H:17])[H:18])[H:10])[O:7][C:2]([H:11])([H:12])[H:13]>>[C:1]1([C:3]([H:14])([H:15])[H:16])([N:4]([H:8])[H:9])[C:5]([O:7][C:2]([H:11])([H:12])[H:13])([H:10])[C:6]1([H:17])[H:18],48.166899999986725
MR_518217_0,[C:1]([C:2](=[O:6])[H:8])(/[C:3](=[N:4]/[H:7])[H:9])=[O:5]>>[C:1]1(=[O:5])[C:2](/[C:3](=[N:4]/[H:7])[H:9])([H:8])[O:6]1,53.6863900000337
MR_557176_2,[C:1]([C:2]([C:3]([H:17])([H:18])[H:19])=[O:7])([C:4]([O:8][H:13])([O:9][H:14])[O:10][H:12])([N:5]([H:15])[H:16])[O:6][H:11]>>[C:1]([C:2]([C:3]([H:17])([H:18])[H:19])([O:7][H:12])[O:8][H:13])([C:4]([O:9][H:14])=[O:10])([N:5]([H:15])[H:16])[O:6][H:11],31.028619999989928
MR_268748_0,[C:1](/[C:4](=[C:3](\[N:2]([O:5][H:8])[O:6][H:7])[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:4](/[C:3](=[N:2]/[O:6][H:7])[H:9])([O:5][H:8])[H:10])([H:11])([H:12])[H:13],36.16596250003866
MR_500459_0,[C:1](/[C:2]([O:5][H:8])=[N:6]/[O:4][H:7])([N:3]([H:9])[H:10])([H:11])[H:12]>>[C:1]1([N:3]([H:9])[H:10])([H:11])[C:2]([O:5][H:8])([H:12])[N:6]1[O:4][H:7],66.93291499997585
MR_244755_0,[C:1]([C:2]([C:4](=[O:7])[H:12])([H:10])[H:11])([C:3]([H:13])([H:14])[H:15])([O:5][H:8])[O:6][H:9]>>[C:1]([C:2]([C:4]([C:3]([H:13])([H:14])[H:15])([O:7][H:8])[H:12])([H:10])[H:11])(=[O:5])[O:6][H:9],63.25262749999368
MR_578160_1,[C:1](/[N:9]=[C:4](/[N:3]([C:5]([C:2]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])[N:6]([H:11])[H:12])[O:8][H:10])([H:13])([H:14])[H:15]>>[C:1]([N:9](/[C:4](=[N:3]\[N:6]([H:11])[H:12])[O:8][H:10])[C:5]([C:2]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])([H:13])([H:14])[H:15],49.0579499999842
MR_108474_0,[C:1]([C:4](/[C:3]([N:5]([H:8])[H:9])=[N:7]/[H:10])=[C:6](/[C:2]([H:15])([H:16])[H:17])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:4]1=[C:3]([N:5]([H:8])[H:9])[N:7]([H:10])[C:6]1([C:2]([H:15])([H:16])[H:17])[H:11])([H:12])([H:13])[H:14],51.66646749999714
MR_235989_0,[C:1](/[C:5]([C:3]([H:17])([H:18])[H:19])=[C:4](\[C:2]([H:14])([H:15])[H:16])[N:6]([H:9])[H:10])([C:7](=[O:8])[H:11])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[C:5]([C:3]([H:17])([H:18])[H:19])([C:4]([C:2]([H:14])([H:15])[H:16])([N:6]([H:9])[H:10])[H:11])[C:7]1=[O:8],69.47742749997204
MR_502355_0,[C:1]([N:5]([C:2]([H:14])([H:15])[H:16])[O:8][H:10])(/[C:7]([C:4]([H:20])([H:21])[H:22])=[C:6](\[C:3]([H:17])([H:18])[H:19])[O:9][H:11])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[N:5]([C:2]([H:14])([H:15])[H:16])[C:7]1([C:4]([H:20])([H:21])[H:22])[C:6]([C:3]([H:17])([H:18])[H:19])([O:8][H:10])[O:9][H:11],70.90247999997672
